US05306827
Preparation of 3-Bromo-5-(p-chlorophenyl)-4-nitro-2-[(trifluoromethyl)thio]pyrrole
A solution of 2-(p-chlorophenyl)-3-nitro-5-[(trifluoromethyl)thio]pyrrole (0.35 g, 0.0011 mol) and sodium acetate (0.11 g, 0.0013 mol) in acetic acid is treated with a solution of bromine (0.21 g, 0.0013 mol) in acetic acid, stirred for one hour, poured into water and extracted with ethyl acetate. The combined organic extracts are washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue. Flash chromatography of the residue using silica gel and a 1:9 ethyl acetate/hexanes solution gives the title product as a yellow solid (0.25 g, mp 160°-165° C.) which is identified by 1HNMR, 19FNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-3-nitro-5-[(trifluoromethyl)thio]pyrrole | 0.0011 mol, 0.35 g | ClC1=CC=C(C=C1)C=1NC(=CC1[N+](=O)[O-])SC(F)(F)F | C11H6ClF3N2O2S
reactant | sodium acetate | 0.0013 mol, 0.11 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.0013 mol, 0.21 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-5-(p-chlorophenyl)-4-nitro-2-[(trifluoromethyl)thio]pyrrole | 0.25 g | BrC1=C(NC(=C1[N+](=O)[O-])C1=CC=C(C=C1)Cl)SC(F)(F)F | C11H5BrClF3N2O2S
